US04543309
Solution was prepared by dissolving 18.0 g (0.11 mole) of 5-nitrobenzotriazole into 300 ml of ethanol and whereto a solution prepared by dissolving 16.9 g (0.10 mole) of silver nitrate into 100 ml of water was dropped and the mixture thereof was stirred for 30 minutes. The crystals thus produced were filtrated and were then washed with 100 ml of ethanol, and thus, 26.4 g of 5-nitrobenzotriazole silver were obtained.

reactant | 5-nitrobenzotriazole | 0.11 mole, 18.0 g | [N+](=O)([O-])C1=CC2=C(NN=N2)C=C1 | C6H4N4O2
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | silver nitrate | 0.10 mole, 16.9 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 100 ml | O | H2O
product | 5-nitrobenzotriazole silver | 26.4 g | [Ag].[N+](=O)([O-])C1=CC2=C(NN=N2)C=C1 | InChI=1S/C6H4N4O2.Ag/c11-10(12)4-1-2-5-6(3-4)8-9-7-5;/h1-3H,(H,7,8,9);
